* This is the transformer
*        (--3
*  1--)  (
*     )  (
*     )  (--4 (CT)
*     )  (
*  2--)  (
*        (--11
*
.SUBCKT transformer.sub 3 4 5
RP 1 0 1MEG
E1 7 0 1 0 {RATIO_1}
F1 1 0 VM1 {RATIO_1}
E2 20 5 1 0 {RATIO_2}
F2 1 0 VM2 {RATIO_2}
VM1 7 3 0 Rser=1u
VM2 20 0 0 Rser=1u
L1 prim1 0 {Lprimary} Rpar=1Meg
L2 sec1 0 {Lprimary*RATIO_1*RATIO_1} Rser=1u
L3 0 sec2 {Lprimary*RATIO_2*RATIO_2} Rser=1u
Vdrive prim1 0 SINE(0 120 60) AC 1 Rser=1u
Edrive 1 0 prim1 0 1
K L1 L2 L3 1
.param RATIO_1={1/6}
.param RATIO_2={1/6}
.param Lprimary=500u
.backanno
.end
